US08026257B2
(±)-5-Cyclopropyl-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole.
(±)-tert-Butyl 4-((1-(5-cyclopropyl-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (30 mg, 0.061 mmol) was dissolved in trifluoroacetic acid (20% in dichloromethane, 2 mL) and stirred at room temperature for 30 min. The reaction was concentrated and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 21.8 mg (91%). LC/MS (HPLC method 3): tR=2.235 min, 394.10(MH)+.

reactant | (±)-tert-Butyl 4-((1-(5-cyclopropyl-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.061 mmol, 30 mg | C1(CC1)C=1C=C2C=NNC2=C(C1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C29H36FN3O3
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-5-Cyclopropyl-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole | C1(CC1)C=1C=C2C=NNC2=C(C1)C(C)OCC1(CCNCC1)C1=CC=C(C=C1)F | C24H28FN3O
